US07754737B2
A stirred solution of tert-butyl 3-benzoylpiperidine-1-carboxylate (160 mg, 0.55 mmol) in dry THF (2 mL) was cooled to −70° C. and 4-pentenylmagnesium bromide in THF (1.8 mL of ˜2.5 M, 2.8 mmol) was added dropwise. The mixture was stirred at −78° C. and allowed to warm to rt overnight. The reaction was quenched with satd aq ammonium chloride. The aqueous layer was extracted with Et2O (3×). The combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The crude material was purified by flash chromatography on a prepacked silica cartridge eluted with an EtOAc/hexanes gradient. tert-Butyl 3-((R)-1-hydroxy-1-phenylhex-5-enyl)piperidine-1-carboxylate (174 mg, 88%) was isolated as an oil. MS ESI+ve m/z 382 (M+Na)+.

reactant | tert-butyl 3-benzoylpiperidine-1-carboxylate | 0.55 mmol, 160 mg | C(C1=CC=CC=C1)(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C17H23NO3
reactant | 4-pentenylmagnesium bromide | C(CCC=C)[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2.8 mmol, ˜2.5 M, 1.8 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-((R)-1-hydroxy-1-phenylhex-5-enyl)piperidine-1-carboxylate | 174 mg, 88% | O[C@@](CCCC=C)(C1=CC=CC=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C22H33NO3
